US09085576B2
Synthesis of 5-chloro-3-isopropylpicolinic acid
A sealable vial was charged with 5-chloro-3-(prop-1-en-2-yl)picolinic acid (373 mg, 1.887 mmol) and EtOH (100 mL). The solution was purged with Nitrogen. Pt on activated carbon (479 mg, 0.245 mmol) was added, followed by glacial acetic acid (0.4 mL). The reaction mixture was evacuated, backfilled with hydrogen and stirred for 30 min at rt. The reaction mixture was filtered through a pad of celite to obtain the title compound as a white solid. The product contained minor amounts of dehalogenated product. The product was used in the next step without further purification.

reactant | 5-chloro-3-(prop-1-en-2-yl)picolinic acid | 1.887 mmol, 373 mg | ClC=1C=C(C(=NC1)C(=O)O)C(=C)C | C9H8ClNO2
reactant | EtOH | 100 mL | CCO | C2H6O
catalyst | Pt on activated carbon | 0.245 mmol, 479 mg | [Pt] | Pt
solvent | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
product | 5-chloro-3-isopropylpicolinic acid | ClC=1C=C(C(=NC1)C(=O)O)C(C)C | C9H10ClNO2
